US08492378B2
5-[3-(2-chlorophenyl)-1-benzofuran-5-yl]-N-methyl-1,3,4-oxadiazol-2-amine
In the same manner as in Example 110 and using 2-[3-(2-chlorophenyl)-1-benzofuran-5-yl]-5-(methylsulfonyl)-1,3,4-oxadiazole instead of 2-(2,3-dihydro-1-benzofuran-5-yl)-5-(methylsulfonyl)-1,3,4-oxadiazole and using 2M methylamine-tetrahydrofuran solution instead of 3-fluorobenzylalcohol, the title compound (yield 65%) was obtained as colorless crystals.

reactant | 2-[3-(2-chlorophenyl)-1-benzofuran-5-yl]-5-(methylsulfonyl)-1,3,4-oxadiazole | ClC1=C(C=CC=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)S(=O)(=O)C | C17H11ClN2O4S
reactant | methylamine tetrahydrofuran | 2M | CN.O1CCCC1
product | 5-[3-(2-chlorophenyl)-1-benzofuran-5-yl]-N-methyl-1,3,4-oxadiazol-2-amine | yield 65% | ClC1=C(C=CC=C1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)NC | C17H12ClN3O2
